US06921753B2
(2R,3R,4S, 5S)-4-(Benzoyloxy)-2-(6-{[2,2-bis(4-chlorophenyl)ethyl]amino}-2-cyano-9H-purin-9-yl)-5-[(ethylamino)carbonyl]tetrahydro-3-furanyl benzoate
Copper (I) cyanide was added to a solution of (2R,3R,4S,5S)-4-(benzoyloxy)-2-(6-{[2,2-bis(4-chlorophenyl)ethyl]amino}-2-iodo-9H-purin-9-yl)-5-[(ethylamino)carbonyl]tetrahydro-3-furanyl benzoate (440 mg, 0.494 mmol) (Preparation 67) in N′N′-dimethylformamide (10 ml). The reaction mixture was stirred at 90° C. overnight. The reaction mixture was poured into water (15 ml). The precipitate was filtered off and stirred in dichloromethane (50 ml) for 10 minutes. The dichloromethane was filtered, dried over anhydrous magnesium sulphate and evaporated under reduced pressure. The residue was purified by column chromatography on silica gel eluting with dichloromethane:methanol (98:2 by volume). The solvent was removed under reduced pressure to give the title compound (227 mg) as a foam.

reactant | Copper (I) cyanide | [Cu]C#N
reactant | (2R,3R,4S,5S)-4-(benzoyloxy)-2-(6-{[2,2-bis(4-chlorophenyl)ethyl]amino}-2-iodo-9H-purin-9-yl)-5-[(ethylamino)carbonyl]tetrahydro-3-furanyl benzoate | 0.494 mmol, 440 mg | C(C1=CC=CC=C1)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C1=CC=CC=C1)=O)C(=O)NCC)N1C2=NC(=NC(=C2N=C1)NCC(C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl)I | C40H33Cl2IN6O6
solvent | water | 15 ml | O | H2O
product | (2R,3R,4S, 5S)-4-(Benzoyloxy)-2-(6-{[2,2-bis(4-chlorophenyl)ethyl]amino}-2-cyano-9H-purin-9-yl)-5-[(ethylamino)carbonyl]tetrahydro-3-furanyl benzoate | 227 mg | C(C1=CC=CC=C1)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C1=CC=CC=C1)=O)C(=O)NCC)N1C2=NC(=NC(=C2N=C1)NCC(C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl)C#N | C41H33Cl2N7O6
